US08629137B2
1-[4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-6′-methylamino-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-1,3-dihydro-imidazo[4,5-b]pyridin-2-one
1.00 mL TFA were added to 59 mg (0.096 mmol) tert-butyl[4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-4-(2-oxo-2,3-dihydro-imidazo[4,5-b]pyridin-1-yl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-6′-yl]-methyl-carbamate in 5.00 mL DCM and the mixture was stirred for 3 h at RT. Then the reaction mixture was evaporated down, the residue was dissolved in DMF and purified by preparative HPLC-MS. The fractions containing the product were combined and freeze-dried.

reactant | TFA | 1.00 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl[4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-4-(2-oxo-2,3-dihydro-imidazo[4,5-b]pyridin-1-yl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-6′-yl]-methyl-carbamate | 0.096 mmol, 59 mg | C(C)(C)(C)OC(N(C)C1=CC(=CC(=N1)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O)C(=O)C2=CC1=C(N(C(O1)=O)C)C(=C2)C)=O | C32H35N7O6
solvent | DCM | 5.00 mL | C(Cl)Cl | CH2Cl2
product | 1-[4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-6′-methylamino-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-1,3-dihydro-imidazo[4,5-b]pyridin-2-one | CN1C(OC2=C1C(=CC(=C2)C(=O)C2=CC(=NC(=C2)NC)N2CCC(CC2)N2C(NC1=NC=CC=C12)=O)C)=O | C27H27N7O4
